US06559155B1
N-(1-Dodecyl)-N-methylbromoacetamide
To a solution of N-methyl-N-dodecylamine (2.5 ml) and triethylamine (1.4 ml) in dichloromethane (10 ml) was added with stirring and ice cooling a solution of bromoacetyl bromide (0.87 ml) in dichloromethane (10 ml). The cooling bath was removed after 30 min and the reaction stood for 16 h at ambient temperature. The mixture was washed with water and saturated sodium hydrogen carbonate, dried (K2CO3) and the solution purified by flash chromatography (silica, methanol-dichloromethane). Appropriate fractions were combined and evaporated to a pale yellow oil, yield 1.53 g (48%). 1H-NMR (CDCl3) δ0.8 (3H,t), 1.2 (18H,m), 1.5 (2H,m,), 2.88 and 2.99 (3H,2xs), 3.27 (2H,m), 3.77 and 3.79 (2H,s)); MS (APCI+) found (M+1)=320, 322, C15H30BrNO requires 319,321.

reactant | N-methyl-N-dodecylamine | 2.5 ml | CNCCCCCCCCCCCC | C13H29N
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 0.87 ml | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(1-Dodecyl)-N-methylbromoacetamide | C(CCCCCCCCCCC)N(C(CBr)=O)C | C15H30BrNO
